US07544697B2
tert-Butyl 2-(3-cyano-1-propyl-1H-pyrazol-5-yl)-1,1-dimethylethylcarbamate (5.15 g, 16.8 mmol) was brominated using a modified version of the method described in Part F of Examples 1-4. In the reaction, 1.4 equivalents of bromine were used instead of 1.1 equivalents, chloroform was used instead of dichloromethane in the work-up, and no chromatographic purification was performed. The product, tert-butyl 2-(4-bromo-3-cyano-1-propyl-1H-pyrazol-5-yl)-1,1-dimethylethylcarbamate (6.97 g), was isolated as a clear, colorless oil that may have contained some chloroform.

reactant | tert-Butyl 2-(3-cyano-1-propyl-1H-pyrazol-5-yl)-1,1-dimethylethylcarbamate | 16.8 mmol, 5.15 g | C(#N)C1=NN(C(=C1)CC(C)(C)NC(OC(C)(C)C)=O)CCC | C16H26N4O2
reactant | bromine | 1.4 equivalents | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 2-(4-bromo-3-cyano-1-propyl-1H-pyrazol-5-yl)-1,1-dimethylethylcarbamate | 6.97 g | BrC=1C(=NN(C1CC(C)(C)NC(OC(C)(C)C)=O)CCC)C#N | C16H25BrN4O2
